data/oMe_Silver.jsonl
{"reaction_id": "NR-222_1-c1cc(F)c(F)c(F)c1_2-C_3-c1c(OC)cccc1_4-C(C)C","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(c1cc(F)c(F)c(F)c1)(C(O)(c1cc(F)c(F)c(F)c1)C(C)(c1c(OC)cccc1)C(C)C)C(C)(c1c(OC)cccc1)C(C)C"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](c1cc(F)c(F)c(F)c1)O[Mg]O[CH]C(c1cc(F)c(F)c(F)c1)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cc(F)c(F)c(F)c1)(C(c1cc(F)c(F)c(F)c1)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
